Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / azithromycin
 
Attending: ___
 
Chief Complaint:
s/p MVC
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
EU Critical ___ aka ___ was transferred from
OSH after a intoxicated MVA for concern for C6 R facet fracture.
Patient was a restrained driver who per report first struck a
pedestrian and then struck a pole. When EMS arrived on scene
patient was found half ejected through the drivers side vehicle
with the vehicle upside down. He denied taking any Xanax but was
found with a bottle of pills. Upon arrival to ___ patient
denies remember the events of the accident. He denies any neck
pain, numbness, tingling. Given his level of intoxication he is 
a
poor historian.  
 
Past Medical History:
Anxiety 

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
PHYSICAL EXAMINATION
HR: 58 BP: 110/80 Resp: 10 O(2)Sat: 100% Normal
 Constitutional: Comfortable
HEENT: Blood tinge to scalp; 2 mm pupils bilaterally; ,
Pupils equal, round and reactive to light, Extraocular
muscles intact
Airway clear; No hemotympanum; C-spine tenderness
Chest: B/l breath sounds; no chest wall instability
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: 2+ distal pulses. No evidence of trauma to
extremities. No thoracic or lumbar midline tenderness.
Skin: Abrasion to bridge of nose; Abrasion to left shoulder
and right knee
Neuro: Slurred speech
Psych: intoxicated
___: No petechiae

PHYSICAL EXAM:
Gen: WD/WN, comfortable, NAD. Lying on stretcher in hard 
cervical
collar. 
HEENT: Pupils: 6mm-->3mm        EOMs intact 
Neuro:
Mental status: Appears intoxicated. Awake and alert, cooperative
with exam, normal affect.
Orientation: Oriented to person, place, and date.
 
Pertinent Results:
___ 06:45AM BLOOD WBC-6.4 RBC-4.34* Hgb-14.2 Hct-44.7 
MCV-103* MCH-32.7* MCHC-31.8* RDW-12.1 RDWSD-45.9 Plt ___
___ 11:20PM BLOOD WBC-5.9 RBC-4.46* Hgb-14.5 Hct-46.2 
MCV-104* MCH-32.5* MCHC-31.4* RDW-12.1 RDWSD-46.6* Plt ___
___ 06:45AM BLOOD Glucose-97 UreaN-5* Creat-1.0 Na-142 
K-3.9 Cl-104 HCO3-27 AnGap-15
___ 06:45AM BLOOD Lipase-53
___ 11:20PM BLOOD Lipase-239*
___ 06:45AM BLOOD Calcium-8.5 Phos-2.7 Mg-2.0
___ 11:20PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:
C-Spine MRI:
1. No evidence of fracture.  Prevertebral soft tissue swelling 
extending from C4 through C6 is concerning for anterior 
longitudinal ligament injury.  2. Edema pattern in the 
interspinous ligaments and posterior paraspinal muscles at the 
level of C3 through C6, can be seen in whiplash injuries. 3. 
Acute C5/C6 right central disc protrusion, resulting in moderate 
right neural foraminal narrowing and contact with the exiting 
right C6 nerve root. 4. No cord signal abnormalities identified. 


Shoulder XRay:
Portable views show no evidence of acute fracture or 
dislocation. No evidence  of rib fracture or pneumothorax. 

 
Brief Hospital Course:
___ year old male transferred for trauma evaluation. Patient had 
CT head, C-spine, and torso at outside hospital only significant 
for C6 fracture. Patient is neurologically intact. C-Spine MRI 
negative for ligamentous injury. Neurosurgery recommended hard 
collar and follow-up in clinic in 6 weeks. The patient was 
admitted for pain control and further work-up. Tertiary exam was 
negative for other injuries. The patient was having  

Pain was well controlled. Diet was progressively advanced as 
tolerated to a regular diet with good tolerability. The patient 
voided without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services, 
in the hard collar, with Neurosurgery follow-up. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
..

 
Medications on Admission:
ALPRAZolam 0.5 mg PO QAM:PRN anxiety  
ALPRAZolam 1 mg PO TID:PRN anxiety  
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*10 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation  
5.  ALPRAZolam 0.5 mg PO QAM:PRN anxiety  
6.  ALPRAZolam 1 mg PO TID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C6 nondisplaced endplate fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred to ___ after being involved in a motor 
vehicle collision. You were found to have a fracture of your 
cervical spine. An MRI was done, which was negative for any 
ligamentous injury. The Spine doctors were ___ and 
recommend wearing the hard collar for 4 weeks and following up 
in clinic for a repeat CT scan. Please wear your hard cervical 
collar at all times except for hygiene. 

You are now medically cleared for discharge. Please note the 
following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___